US04360528
12.4 g (0.33 mols) of sodium boranate were introduced in portions into a solution of 98.8 g (0.33 mols) of 1-(imidazol-1-yl)-2-(4-chlorophenoxy)-4,4-dimethyl-1-penten-3-one in 1,000 ml of methanol at 20° to 30° C. in the course of 30 minutes, with slight external cooling. After 3 hours, the solution was filtered and the filtrate was acidified with 10% strength acetic acid and evaporated under reduced pressure. The solid residue which remained was stirred into 1.3 liters of water. The water-insoluble reduction product was filtered off and dried at 50° C. in vacuo. 93.7 g (92.55% of theory) of 1-(imidazol-1-yl)-2-(4-chlorophenoxy)-4,4-dimethyl-1-penten-3-ol of melting point 141°-143° C. were obtained in the form of colorless crystals.

reactant | sodium boranate | 0.33 mols, 12.4 g | B(=O)[O-].[Na+]
reactant | 1-(imidazol-1-yl)-2-(4-chlorophenoxy)-4,4-dimethyl-1-penten-3-one | 0.33 mols, 98.8 g | N1(C=NC=C1)C=C(C(C(C)(C)C)=O)OC1=CC=C(C=C1)Cl | C16H17ClN2O2
solvent | methanol | 1,000 ml | CO | CH4O
product | 1-(imidazol-1-yl)-2-(4-chlorophenoxy)-4,4-dimethyl-1-penten-3-ol | 93.7 g, 92.55% | N1(C=NC=C1)C=C(C(C(C)(C)C)O)OC1=CC=C(C=C1)Cl | C16H19ClN2O2
